US07442791B2
A solution of 5.15 g (20.0 mmol) of trans-4-(tert-butoxycarbonyl-methyl-amino)-cyclohexanecarboxylic acid was dissolved in 50 mL of dioxane, cooled to 10° C. and treated with 50 mL (200 mmol, 10 eq) of 4M HCl in dioxane, then warmed to RT overnight. The solution was evaporated to ca. 15 mL, cooled to 0° C. and precipitated with ˜100 mL of Et2O. The solid precipitate was filtrated, washed with Et2O (×3) and dried under reduced pressure to yield 3.76 g (97%) of trans-4-methylamino-cyclohexanecarboxylic acid-HCl, MS: 156 (M−H−), MP: 249° C., dec.

reactant | trans-4-(tert-butoxycarbonyl-methyl-amino)-cyclohexanecarboxylic acid | 20.0 mmol, 5.15 g | C(C)(C)(C)OC(=O)N([C@@H]1CC[C@H](CC1)C(=O)O)C | C13H23NO4
reactant | HCl | 200 mmol, 4M, 50 mL, 10 eq | Cl | ClH
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | trans-4-methylamino-cyclohexanecarboxylic acid-HCl | 3.76 g, 97% | Cl.CN[C@@H]1CC[C@H](CC1)C(=O)O | InChI=1S/C8H15NO2.ClH/c1-9-7-4-2-6(3-5-7)8(10)11;/h6-7,9H,2-5H2,1H3,(H,10,11);1H/t6-,7-;
